US04748162
p-Nitrobenzyl (5R,6S)-2-methylsulfinyl-6-ethyl-pen-2-em-3-carboxylate
A solution of 85% m-chloroperoxy benzoic acid (53 mg, 0.26 mmol) in CH2Cl2 (1 ml) is added dropwise over a few minutes to an ice-cold, stirring solution of p-nitrobenzyl (5R,6S)-2-methylthio-6-ethyl-pen-2-em-3-carboxylate (94 mg, 0.25 mmol) in anhydrous THF (2 ml). The resulting solution is stirred an additional 30 minutes at 0°, then diluted with EtOAc and washed with H2O, 5% aqueous NaHCO3, H2O, and brine. The organic phase is dried with MgSO4, filtered, and evaporated in vacuo to provide the title compound as a mixture of sulfoxide isomers.

reactant | m-chloroperoxy benzoic acid | 0.26 mmol, 53 mg | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | p-nitrobenzyl (5R,6S)-2-methylthio-6-ethyl-pen-2-em-3-carboxylate | 0.25 mmol, 94 mg | CSC=1S[C@H]2N(C1C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C([C@@H]2CC)=O | C16H16N2O5S2
solvent | CH2Cl2 | 1 ml | C(Cl)Cl | CH2Cl2
solvent | THF | 2 ml | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | p-Nitrobenzyl (5R,6S)-2-methylsulfinyl-6-ethyl-pen-2-em-3-carboxylate | CS(=O)C=1S[C@H]2N(C1C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C([C@@H]2CC)=O | C16H16N2O6S2
